US06972287B1
Preparation of o-Bromobenzoic Acid Potassium Salt
To a solution of o-bromobenzoic acid (201.03 g, 1.0 mol) in MeOH (500 mL), K2CO3 (69 g, 1.0 mol) was added. The mixture was concentrated to give the desired product (239.1 g, 1.0 mol, 100%).

reactant | o-bromobenzoic acid | 1.0 mol, 201.03 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | K2CO3 | 1.0 mol, 69 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 500 mL | CO | CH4O
product | o-Bromobenzoic Acid Potassium Salt | 1.0 mol, 239.1 g, 100% | [K+].BrC1=C(C(=O)[O-])C=CC=C1 | InChI=1S/C7H5BrO2.K/c8-6-4-2-1-3-5(6)7(9)10;/h1-4H,(H,9,10);/q;+1/p-1
